US06326398B1
N-{4-[4-Hydroxy-3-(isopropylmethylcarbamoyl)-phenoxy]-3,5-dimethyl-phenyl}-oxamide
A solution of N-{4-[4-hydroxy-3-(isopropylmethylcarbamoyl)-phenoxy]-3,5-dimethyl-phenyl}-oxamic acid ethyl ester (7.1 mg, 0.017 mmol) in 1 mL of EtOH in the presence of magnesium sulfate (10 mg) at 0° C. was bubbled in NH3 gas for 10 min. The solution was allowed to warm to RT. After stirring at RT for 0.5 h, the solution was diluted with 2 mL of CH2Cl2 and filtered. The filtrate was concentrated to give the title compound as a white solid. MS Calc.: 399.5 Found: 398.4 (M−1).

reactant | N-{4-[4-hydroxy-3-(isopropylmethylcarbamoyl)-phenoxy]-3,5-dimethyl-phenyl}-oxamic acid ethyl ester | 0.017 mmol, 7.1 mg | C(C)OC(C(=O)NC1=CC(=C(C(=C1)C)OC1=CC(=C(C=C1)O)C(N(C)C(C)C)=O)C)=O | C23H28N2O6
reactant | magnesium sulfate | 10 mg | S(=O)(=O)([O-])[O-].[Mg+2]
reactant | NH3 | N | H3N
solvent | EtOH | 1 mL | CCO | C2H6O
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | N-{4-[4-Hydroxy-3-(isopropylmethylcarbamoyl)-phenoxy]-3,5-dimethyl-phenyl}-oxamide | OC1=C(C=C(OC2=C(C=C(C=C2C)NC(=O)C(=O)N)C)C=C1)C(N(C)C(C)C)=O | C21H25N3O5
